US09120749B2
(R)-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, (R)-tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (100 mg, 0.17 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (75 mg, 0.26 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (18 mg, 19% over 2 steps) as a yellow-orange solid. NMR (500 MHz, MeOD+TFA-d) δ 9.40 (br s, 1H), 8.25-8.19 (m, 2H), 8.10 (br s, 1H), 8.01 (d, J=8.8 Hz, 1H), 7.65 (dd, J=9.1, 2.8 Hz, 1H), 7.32 (s, 2H), 7.07 (d, J=9.1 Hz, 1H), 4.53 (br s, 1H), 4.01 (dt, J=13.7, 4.0 Hz, 1H), 3.39-3.23 (m, 1H), 2.86 (br s, 1H), 2.22-2.12 (m, 1H), 1.97-1.88 (m, 1H), 1.78-1.64 (m, 2H), 1.26-1.16 (m, 4H). ESI MS m/z 548 [C29H27Cl2N5O2+H]+; HPLC>99.0% (AUC), tR=10.96 min.

reactant | (R)-tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.17 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C28H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.26 mmol, 75 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | (R)-(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 18 mg, 19% | N[C@H]1CN(CCC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C29H27Cl2N5O2
